US05939431
C. 8-hydrazino-6-(3-methyl-2-pyridinyl)-1,7-naphthyridine
To a solution of 98% hydrazine hydrate (7.4 g, 0.148 mol) in ethanol (100 mL) add 8-chloro-6-(3-methyl-2-pyridinyl)-1,7-naphthyridine (8.5 g, 0.0332 mol) and reflux for 2.5 hours. Concentrate the reaction mixture under reduced pressure, triturate the residual solid with water, filter and crystallize the isolated solid from benzene-petroleum ether to obtain the title compound, mp 115-6° C.

reactant | hydrazine hydrate | 0.148 mol, 7.4 g | O.NN
reactant | 8-chloro-6-(3-methyl-2-pyridinyl)-1,7-naphthyridine | 0.0332 mol, 8.5 g | ClC=1N=C(C=C2C=CC=NC12)C1=NC=CC=C1C | C14H10ClN3
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 8-hydrazino-6-(3-methyl-2-pyridinyl)-1,7-naphthyridine | N(N)C=1N=C(C=C2C=CC=NC12)C1=NC=CC=C1C | C14H13N5
